US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-8-hydroxymethyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Pyridine (300 mg) and a 40% aqueous solution (150 mg) of methylamine were added to 1(5-amino-2,4-difluorophenyl)-6,7-difluoro-8-hydroxymethyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg), and the mixture was stirred overnight at 40° C. The solvent and the like were distilled off, and diethyl ether was added to the residue. A supernatant liquid was removed, and ethanol was added to the resultant residue. Solids deposited were collected by filtration to obtain the title compound (34 mg) as a yellow powder.

reactant | methylamine | CN | CH5N
reactant | 1(5-amino-2,4-difluorophenyl)-6,7-difluoro-8-hydroxymethyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)CO)F)F)=O)C(=O)O)F)F | C17H10F4N2O4
solvent | Pyridine | 300 mg | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-8-hydroxymethyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 34 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)CO)NC)F)=O)C(=O)O)F)F | C18H14F3N3O4
